US06110939
A mixture of (±)-ethyl trans-2-[(3,4-dichlorophenyl)methyl]-4-[[1-(2-ethoxyethyl)-1H-benzimidazol-2-yl]amino]-1-piperidinecarboxylate (2.5 g) and KOH (2.8 g) in 2-propanol (50 ml) was stirred and refluxed for 48 hours. The solvent was evaporated. The residue was partitioned between water and CH2Cl2. The organic layer was separated, dried, filtered and the solvent evaporated. The residue was purified by column chromatography over silica gel (eluent: CH2Cl2 /(CH3OH/NH3) 95/5, upgrading to 90/10). The pure fractions were collected and the solvent was evaporated, yielding 1.1 g (49.2%) of (±)-trans-N-[2-[(3,4-dichlorophenyl)methyl]-4-piperidinyl]-1-(2-ethoxyethyl)-1H-benzimidazol-2-amine (interm. 28).

reactant | (±)-ethyl trans-2-[(3,4-dichlorophenyl)methyl]-4-[[1-(2-ethoxyethyl)-1H-benzimidazol-2-yl]amino]-1-piperidinecarboxylate | 2.5 g | ClC=1C=C(C=CC1Cl)C[C@@H]1N(CC[C@H](C1)NC1=NC2=C(N1CCOCC)C=CC=C2)C(=O)OCC | C26H32Cl2N4O3
reactant | KOH | 2.8 g | [OH-].[K+]
solvent | 2-propanol | 50 ml | CC(C)O | C3H8O
product | (±)-trans-N-[2-[(3,4-dichlorophenyl)methyl]-4-piperidinyl]-1-(2-ethoxyethyl)-1H-benzimidazol-2-amine | 1.1 g, 49.2% | ClC=1C=C(C=CC1Cl)C[C@@H]1NCC[C@H](C1)NC1=NC2=C(N1CCOCC)C=CC=C2 | C23H28Cl2N4O
